US07763639B2
1-(2,3-DICHLOROPHENYL)-4-PROPYLPIPERAZINE
Preparation according to Example 1: 1-(2,3-dichlorophenyl)piperazine (1.0 g, 3.74 mmol), acetonitrile (40 ml), potassium carbonate (1.55 g, 11.2 mmol) and 1-iodopropane (0.293 ml, 3.74 mmol). Yield: 0.23 g (20%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 220-221° C. MS m/z (relative intensity, 70 eV) 274 (M+, 15), 272 (M+, 22), 245 (63), 243 (bp), 174 (22), 172 (27).

reactant | 1-(2,3-dichlorophenyl)piperazine | 3.74 mmol, 1.0 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | potassium carbonate | 11.2 mmol, 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 3.74 mmol, 0.293 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(2,3-DICHLOROPHENYL)-4-PROPYLPIPERAZINE | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCC | C13H18Cl2N2
